US04985419
A mixture of 10-(1-ethylamino-2-propyl)-2-phenothiazinecarbonitrile, L series (3.1 g), sodium carbonate (1.19 g) and bromomethylcyclopropane (2.7 g) in dimethylformamide (32 cc) is heated to 150° C. for 9 hours. After cooling, the reaction mixture is poured into distilled water (300 cc) and extracted with ethyl acetate (3×150 cc). The combined organic phases are washed with distilled water (4×100 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. The brown oily residue (3.38 g) is purified by chromatography on a column (height: 30 cm; diameter: 2.5 cm) of silica gel (0.06-0.20 mm), eluting with a mixture (80:20 by volume) (2 liters) of methylene chloride and ethyl acetate and collecting 60-cc fractions. Fractions 4 to 12 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. 10-{1-[N-(Cyclopropylmethyl)-methylamino]-2-propyl}-2-phenothiazinecarbonitrile, L series (1.83 g) is thereby obtained in the form of a yellow oil.

reactant | 10-(1-ethylamino-2-propyl)-2-phenothiazinecarbonitrile | C(C)NCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C18H19N3S
reactant | sodium carbonate | 1.19 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | bromomethylcyclopropane | 2.7 g | BrCC1CC1 | C4H7Br
solvent | dimethylformamide | 32 cc | CN(C=O)C | C3H7NO
product | 10-{1-[N-(Cyclopropylmethyl)-methylamino]-2-propyl}-2-phenothiazinecarbonitrile | C1(CC1)CN(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N)C | C21H23N3S
